US08232390B2
Step 2: methyl 2-(2-aminophenyl)-3-cyclohexyl-1H-indole-6-carboxylate
TFA (137 eq) was added to a solution of methyl 2-(2-{[(tert-butoxycarbonyl)amino]phenyl}-3-cyclohexyl-1H-indole-6-carboxylate in DCM (0.1 M) at 0° C. and the solution was allowed to stir at RT for 1 h. The volatiles were removed in vacuo, and the residue diluted with EtOAc. The organic phase was washed with saturated aqueous NaHCO3 (twice) and then brine. The organic phase was dried over Na2SO4, filtered and the solvent evaporated in vacuo to afford the title compound (quant.). MS (ES+) m/z 349 (M+H)+.

reactant | TFA | 137 eq | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-{[(tert-butoxycarbonyl)amino]phenyl}-3-cyclohexyl-1H-indole-6-carboxylate | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)[O-]
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | methyl 2-(2-aminophenyl)-3-cyclohexyl-1H-indole-6-carboxylate | NC1=C(C=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C22H24N2O2
